.SUBCKT irgp20b120ud-e 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*(Diode & Capacitance data taken from HFA16pb120)
*Model generated on Jan 30, 02
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=6 KP=4.74302 LAMBDA=0 CGSO=2e-05
RD 7 9 1e-06
RS 4 8 1e-06
D1 3 1 p20b120

.MODEL p20b120 d
+IS=1.1574e-10 RS=0.0209485 N=1.73462 EG=0.6
+XTI=0.5 BV=1000 IBV=0.0001 CJO=4.38316e-10
+VJ=0.4 M=0.448228 FC=0.5 TT=1e-09
+KF=0 AF=1

Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-17 BF=43.0033 NF=0.898114 VAF=10.2983
+IKF=3075.59 ISE=1.77552e-09 NE=1.67098 BR=1.00385
+NR=0.869372 VAR=136.338 IKR=1000 ISC=9.99941e-12
+NC=1.99962 RB=0.626256 IRB=0.879048 RBM=1e-05
+RE=1e-08 RC=6.81125e-05 XTB=0.00472757 XTI=2.93595
+EG=1.2 CJC=6.32841e-10 VJC=0.961185 MJC=0.457115
+CJE=1.26569e-08 VJE=0.4 MJE=0.9 TF=1e-09
RDS 7 4 1e8
RER 4 3 0.0380715
RG 6 2 5.5274
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=4.48865e-10 VJ=0.706563 M=0.469569 FC=0.344999
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 8.69005e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS irgp20b120ud-e
